US06423713B1
A mixture of 1-methyl-4-piperidone (20 g, 0.18 mol) in methanol:tetrahydrofuran (100 mL, 1:1) and methyl amine (2 M in tetrahydrofuran, 3 mole excess) was placed in a Parr shaker with 5% Pd/C and hydrogenated for two hours at 60 psi and 70° C. The catalyst was filtered and the filtrate concentrated on the rotary evaporator. The crude material was distilled at 44-45° C. at 0.3 mm Hg to give 20 g (87%) of 1-methyl-4-methylaminopiperidine. Anal. Calc'd for C7H16N2: C, 65.57; H, 12.58; N, 21.85. Found: C, 65.49; H, 12.44; N: 21,49.

reactant | 1-methyl-4-piperidone | 0.18 mol, 20 g | CN1CCC(CC1)=O | C6H11NO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | methyl amine | 3 mole, 2 M | CN | CH5N
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-methyl-4-methylaminopiperidine | 20 g, 87% | CN1CCC(CC1)NC | C7H16N2
